US07022707B2
(R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(4-butoxy-2,6-difluoro-benzyl) ester
This compound was prepared from 4-butoxy-2,6-difluoro-benzylalcohol and (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester according to the procedure described in Example 179 to give the product as a colorless oil (454 mg; 80%); MS (ISP): 479.4 (M+Na)+.

reactant | 4-butoxy-2,6-difluoro-benzylalcohol | C(CCC)OC1=CC(=C(CO)C(=C1)F)F | C11H14F2O2
reactant | (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C(=O)Cl)CC | C12H21ClN2O3
product | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(4-butoxy-2,6-difluoro-benzyl) ester | 454 mg, 80% | C(CCC)OC1=CC(=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C(=C1)F)F | C23H34F2N2O5
